US07037908B2
N-(3,4-dimethylbenzyl)-2-(4-fluoro-2-(methylsulfonyl)phenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxamide.
Prepared according to the procedure described for example 2 from 2-(4-fluoro-2-methanesulfonyl-phenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester (55.56 mg, 0.15 mmol) and 3,4-dimethylbenzylamine (102 mg, 0.75 mmol). The title product was obtained as a pink solid (59.8 mg, 87% yield). 1HNMR (500 MHz, CDCl3) δ: 12.25 (1H, s), 7.86 (1H, dd, J=7.63, 2.44 Hz), 7.49–7.44 (2H, m), 7.41 (1H, dd, J=8.54, 4.88 Hz), 7.07 (1H, d, J=7.63 Hz), 7.01 (1H, s), 6.97 (1H, d, J=7.63 Hz), 4.53 (1H, dd, J=14.65, 6.41 Hz), 4.43 (1H, dd, J=14.96, 5.49 Hz), 3.26 (3H, s), 3.01 (3H, s), 2.22 (6H, s). HRMS (ESI) calcd for C22H23FN3O5S (M+H): 460.1343; found: 460.1337.

reactant | 2-(4-fluoro-2-methanesulfonyl-phenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester | 0.15 mmol, 55.56 mg | C(C)OC(=O)C=1N=C(N(C(C1O)=O)C)C1=C(C=C(C=C1)F)S(=O)(=O)C | C15H15FN2O6S
reactant | 3,4-dimethylbenzylamine | 0.75 mmol, 102 mg | CC=1C=C(CN)C=CC1C | C9H13N
product | N-(3,4-dimethylbenzyl)-2-(4-fluoro-2-(methylsulfonyl)phenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxamide | CC=1C=C(CNC(=O)C=2N=C(N(C(C2O)=O)C)C2=C(C=C(C=C2)F)S(=O)(=O)C)C=CC1C | C22H22FN3O5S
